US06518273B1
(3S)-1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-methyl-3-(phenylmethyl)piperazine
Prepared from 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid (Description 12) and (2S)-1-methyl-2-(phenylmethyl)piperazine (Description 35) according to the method of Description 25. 1H NMR (400 MHz, CDCl3) mixture of two amide rotamers; δ7.56-6.98 (12H, m), 4.09, 3.93 (total 1H, each d, J 13.1 Hz), 3.53, 3.47 (total 3H, each s), 3.20-1.98 (12H, m), and 2.39, 2.38 (total 3H, each s). m/z (ES+) 520, 522 (M+1).

reactant | 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)O | C18H15Cl2NO2
reactant | (2S)-1-methyl-2-(phenylmethyl)piperazine | CN1[C@H](CNCC1)CC1=CC=CC=C1 | C12H18N2
product | (3S)-1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-methyl-3-(phenylmethyl)piperazine | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)N1C[C@@H](N(CC1)C)CC1=CC=CC=C1 | C30H31Cl2N3O
